US07232903B2
In a 50 mL volume glass vessel equipped with a stirrer and a thermometer were placed 5.0 g (29.1 mmol) of 4-chloroanthranilic acid and 20 mL (156 mmol) of 15 wt. % ammonia methanol solution. The reaction was carried out for 2 hours at room temperature. After the reaction was complete, the reaction mixture was concentrated under reduced pressure, to obtain 5.0 g (isolated yield: 95%) of ammonium 4-chloroanthranilate as white solid.

reactant | 4-chloroanthranilic acid | 29.1 mmol, 5.0 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | ammonia methanol | CO.N
product | ammonium 4-chloroanthranilate | 5.0 g, yield: 95% | ClC=1C=C(C(C(=O)[O-])=CC1)N.[NH4+] | InChI=1S/C7H6ClNO2.H3N/c8-4-1-2-5(7(10)11)6(9)3-4;/h1-3H,9H2,(H,10,11);1H3
